US06809199B2
The 1-allyl 2-tert-butyl 4-{[5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-2-oxo-1,2,3,4-tetrahydroquinazolin-7-yl]methyl}piperazine-1,2-dicarboxylate was prepared from 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-2-oxo-1,2,3,4-tetrahydroquinazoline-7-carbaldehyde (INTERMEDIATE AAA1) and 1-allyloxycarbonyl-2-t-butyloxycarbonyl piperazine as described in EXAMPLE AAA1, STEP A. 1H NMR (CDCl3, 500 MHz): 1.34 (s, 9H), 1.92 (m, 1H), 2.26 (m, 1H), 2.70 (m, 1H), 3.12 (m, 1H), 3.30 (m, 3H), 3.50 (m, 1H), 3.83 (m, 1H), 4.34 (abq, 2H, J=14.4 Hz), 4.54 (m, 1H), 4.62 (brs, 2H), 5.03 (s, 1H), 5.16-5.36 (m, 2H), 5.93 (brs, 1H), 6.11 (s, 1H), 6.85 (d, 1H, J=10.1 Hz), 7.32-7.56 (m, 7H). MS (API-ES+): 687 (M+H).

reactant | 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-2-oxo-1,2,3,4-tetrahydroquinazoline-7-carbaldehyde | ClC1=C(C=CC=C1)C1=C2CNC(N(C2=CC(=C1)C=O)C1=C(C=CC=C1Cl)Cl)=O | C21H13Cl3N2O2
reactant | 1-allyloxycarbonyl-2-t-butyloxycarbonyl piperazine | C(C=C)OC(=O)N1C(CNCC1)C(=O)OC(C)(C)C | C13H22N2O4
product | 1-allyl 2-tert-butyl 4-{[5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-2-oxo-1,2,3,4-tetrahydroquinazolin-7-yl]methyl}piperazine-1,2-dicarboxylate | ClC1=C(C=CC=C1)C1=C2CNC(N(C2=CC(=C1)CN1CC(N(CC1)C(=O)OCC=C)C(=O)OC(C)(C)C)C1=C(C=CC=C1Cl)Cl)=O | C34H35Cl3N4O5
